US04304728
2-[2-(4-Hydroxyphenyl)ethenyl]-6-phenyl-4H-pyran-4-one
The ether linkage of 2-[2-(4-methoxyphenyl)ethenyl]-6-phenyl-4H-pyran-4-one was cleaved with boron tribromide as described in Example 47 to give the title product as orange needles (mp 198°-201° C.).

reactant | 2-[2-(4-methoxyphenyl)ethenyl]-6-phenyl-4H-pyran-4-one | COC1=CC=C(C=C1)C=CC=1OC(=CC(C1)=O)C1=CC=CC=C1 | C20H16O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | ether | CCOCC | C4H10O
product | 2-[2-(4-Hydroxyphenyl)ethenyl]-6-phenyl-4H-pyran-4-one | OC1=CC=C(C=C1)C=CC=1OC(=CC(C1)=O)C1=CC=CC=C1 | C19H14O3
